US07687508B2
Example 5, Alternative Preparation, Step 1: A sample of 4-chloro-6-(trifluoromethyl)quinazoline (3.25 g, 13.97 mmol) was dissolved in acetonitrile (60 mL) under N2 atmosphere. The resultant cloudy solution was charged with Cs2CO3 (6.83 g, 20.96 mmol) and phenol (1.578 g, 16.77 mmol) and stirred at room temperature. After ˜65 hours, the reaction was filtered to remove the solids. The organic phase was concentrated in vacuo to yield an orange solid. The material was purified by automated flash chromatography (80 g silica gel) using 1:3 EtOAc/Hexanes as the eluant to afford the desired 4-phenoxy-6-(trifluoromethyl)quinazoline as a crystalline solid. LC/MS found (M+H)+=291.1.

reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 13.97 mmol, 3.25 g | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | Cs2CO3 | 20.96 mmol, 6.83 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | phenol | 16.77 mmol, 1.578 g | C1(=CC=CC=C1)O | C6H6O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 4-phenoxy-6-(trifluoromethyl)quinazoline | O(C1=CC=CC=C1)C1=NC=NC2=CC=C(C=C12)C(F)(F)F | C15H9F3N2O
